US07271262B2
1D. (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)-methanone
A solution of (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)-methanone (11.3 g, 30.5 mmol) and NH4OH (200 mL) in 1,4-Dioxane (300 mL) was heated to 50° C. in a pressure reactor. After 2 h the reaction was concentrated under reduced pressure. The residue was dissolved in CH2Cl2 and washed with water. The organic layer was dried over MgSO4 and concentrated to afford the title compound as a yellow solid (10.37 g, 97%). MS: 352.1 (MH+); HPLC Rf: 5.56 min. (HPLC method 4).

reactant | (4-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)-methanone | 30.5 mmol, 11.3 g | ClC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C2CCCC2 | C18H15ClN4O3
reactant | NH4OH | 200 mL | [NH4+].[OH-]
solvent | 1,4-Dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-nitro-phenyl)-methanone | 10.37 g, 97% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C2CCCC2 | C18H17N5O3
